### ISSUE TITLE
very slow elaboration for structure instances

### ISSUE THREAD

**Issue by kbuzzard** [leanprover/lean4#1986]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

We're building the mathlib structure "tower" and some instances are taking a lot longer to compile in Lean 4 than in Lean 3. Here is a rather large MWE, where I build a bunch of the order hierarchy and then at the very bottom I construct an instance in two ways, one very quick and one very slow. I know other examples where I don't have an analogue of the "quick" way because the `mk` constructor is not so convenient. The slowness is really striking: there are three instances of these in the mathlib4 file `Mathlib.Order.CompleteBooleanAlgebra` and the entire file compiles essentially instantaneously apart from these instances which are super-slow. [Here](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Performance.20issue.20with.20.60CompleteBooleanAlgebra.60/near/316817990) I give three super-quick workarounds for the instances in Mathlib4 but this has come up again in another file and no doubt it will show up more.

```lean
universe u v

instance {ι : Type u} {α : ι → Type v} [∀ i, LE (α i)] : LE (∀ i, α i) where
  le x y := ∀ i, x i ≤ y i

class Top (α : Type u) where
  /-- The top (`⊤`, `\top`) element -/
  top : α

/-- Typeclass for the `⊥` (`\bot`) notation -/
class Bot (α : Type u) where
  /-- The bot (`⊥`, `\bot`) element -/
  bot : α

/-- The top (`⊤`, `\top`) element -/
notation "⊤" => Top.top

/-- The bot (`⊥`, `\bot`) element -/
notation "⊥" => Bot.bot

class Preorder (α : Type u) extends LE α, LT α where
  le_refl : ∀ a : α, a ≤ a
  le_trans : ∀ a b c : α, a ≤ b → b ≤ c → a ≤ c
  lt := λ a b => a ≤ b ∧ ¬ b ≤ a
  lt_iff_le_not_le : ∀ a b : α, a < b ↔ (a ≤ b ∧ ¬ b ≤ a)

class PartialOrder (α : Type u) extends Preorder α :=
(le_antisymm : ∀ a b : α, a ≤ b → b ≤ a → a = b)

def Set (α : Type u) := α → Prop

def setOf {α : Type u} (p : α → Prop) : Set α :=
p

namespace Set

variable {α ι : Type _}

/-- Membership in a set -/
protected def Mem (a : α) (s : Set α) : Prop :=
s a

instance : Membership α (Set α) :=
⟨Set.Mem⟩

def range (f : ι → α) : Set α :=
  setOf (λ x => ∃ y, f y = x)

end Set

class InfSet (α : Type _) where
  infₛ : Set α → α

class SupSet (α : Type _) where
  supₛ : Set α → α

export SupSet (supₛ)

export InfSet (infₛ)

open Set

def supᵢ {α : Type _} [SupSet α] {ι} (s : ι → α) : α :=
  supₛ (range s)

def infᵢ {α : Type _} [InfSet α] {ι} (s : ι → α) : α :=
  infₛ (range s)

--notation3 "⨅ "(...)", "r:(scoped f => infᵢ f) => r

class HasSup (α : Type u) where
  /-- Least upper bound (`\lub` notation) -/
  sup : α → α → α

class HasInf (α : Type u) where
  /-- Greatest lower bound (`\glb` notation) -/
  inf : α → α → α

@[inherit_doc]
infixl:68 " ⊔ " => HasSup.sup

@[inherit_doc]
infixl:69 " ⊓ " => HasInf.inf

class SemilatticeSup (α : Type u) extends HasSup α, PartialOrder α where
  /-- The supremum is an upper bound on the first argument -/
  protected le_sup_left : ∀ a b : α, a ≤ a ⊔ b
  /-- The supremum is an upper bound on the second argument -/
  protected le_sup_right : ∀ a b : α, b ≤ a ⊔ b
  /-- The supremum is the *least* upper bound -/
  protected sup_le : ∀ a b c : α, a ≤ c → b ≤ c → a ⊔ b ≤ c

class SemilatticeInf (α : Type u) extends HasInf α, PartialOrder α where
  /-- The infimum is a lower bound on the first argument -/
  protected inf_le_left : ∀ a b : α, a ⊓ b ≤ a
  /-- The infimum is a lower bound on the second argument -/
  protected inf_le_right : ∀ a b : α, a ⊓ b ≤ b
  /-- The infimum is the *greatest* lower bound -/
  protected le_inf : ∀ a b c : α, a ≤ b → a ≤ c → a ≤ b ⊓ c

class Lattice (α : Type u) extends SemilatticeSup α, SemilatticeInf α

class CompleteSemilatticeInf (α : Type _) extends PartialOrder α, InfSet α where
  /-- Any element of a set is more than the set infimum. -/
  infₛ_le : ∀ s, ∀ a, a ∈ s → infₛ s ≤ a
  /-- Any lower bound is less than the set infimum. -/
  le_infₛ : ∀ s a, (∀ b, b ∈ s → a ≤ b) → a ≤ infₛ s

class CompleteSemilatticeSup (α : Type _) extends PartialOrder α, SupSet α where
  /-- Any element of a set is less than the set supremum. -/
  le_supₛ : ∀ s, ∀ a, a ∈ s → a ≤ supₛ s
  /-- Any upper bound is more than the set supremum. -/
  supₛ_le : ∀ s a, (∀ b, b ∈ s → b ≤ a) → supₛ s ≤ a

class CompleteLattice (α : Type _) extends Lattice α, CompleteSemilatticeSup α,
  CompleteSemilatticeInf α, Top α, Bot α where
  /-- Any element is less than the top one. -/
  protected le_top : ∀ x : α, x ≤ ⊤
  /-- Any element is more than the bottom one. -/
  protected bot_le : ∀ x : α, ⊥ ≤ x

class Frame (α : Type _) extends CompleteLattice α where

class Coframe (α : Type _) extends CompleteLattice α where
  infᵢ_sup_le_sup_infₛ (a : α) (s : Set α) : (infᵢ (λ b => a ⊔ b)) ≤ a ⊔ infₛ s
  -- should be ⨅ b ∈ s but I had problems with notation

class CompleteDistribLattice (α : Type _) extends Frame α where
  infᵢ_sup_le_sup_infₛ : ∀ a s, (infᵢ (λ b => a ⊔ b)) ≤ a ⊔ infₛ s
  -- similarly this is not quite right mathematically but this doesn't matter

-- See note [lower instance priority]
instance (priority := 100) CompleteDistribLattice.toCoframe {α : Type _} [CompleteDistribLattice α] :
    Coframe α :=
  { ‹CompleteDistribLattice α› with }

class OrderTop (α : Type u) [LE α] extends Top α where
  /-- `⊤` is the greatest element -/
  le_top : ∀ a : α, a ≤ ⊤

class OrderBot (α : Type u) [LE α] extends Bot α where
  /-- `⊥` is the least element -/
  bot_le : ∀ a : α, ⊥ ≤ a

class BoundedOrder (α : Type u) [LE α] extends OrderTop α, OrderBot α

instance(priority := 100) CompleteLattice.toBoundedOrder  {α : Type _} [h : CompleteLattice α] :
    BoundedOrder α :=
  { h with }

namespace Pi

variable {ι : Type _} {α' : ι → Type _}

instance [∀ i, Bot (α' i)] : Bot (∀ i, α' i) :=
  ⟨fun _ => ⊥⟩

instance [∀ i, Top (α' i)] : Top (∀ i, α' i) :=
  ⟨fun _ => ⊤⟩

end Pi

section SemilatticeInf

variable {α : Type _} [SemilatticeInf α] {a b c d : α}

theorem inf_le_left : a ⊓ b ≤ a :=
  SemilatticeInf.inf_le_left a b

theorem inf_le_right : a ⊓ b ≤ b :=
  SemilatticeInf.inf_le_right a b

theorem le_inf : a ≤ b → a ≤ c → a ≤ b ⊓ c :=
  SemilatticeInf.le_inf a b c

end SemilatticeInf

section SemilatticeSup

variable {α : Type _} [SemilatticeSup α] {a b c d : α}

theorem le_sup_left : a ≤ a ⊔ b :=
  SemilatticeSup.le_sup_left a b

theorem le_sup_right : b ≤ a ⊔ b :=
  SemilatticeSup.le_sup_right a b

theorem sup_le : a ≤ c → b ≤ c → a ⊔ b ≤ c :=
  SemilatticeSup.sup_le a b c

end SemilatticeSup

namespace Pi

variable {ι : Type _} {α' : ι → Type _}

protected instance LE {ι : Type u} {α : ι → Type v} [∀ i, LE (α i)] : LE (∀ i, α i) where
  le x y := ∀ i, x i ≤ y i

instance Preorder {ι : Type u} {α : ι → Type v} [∀ i, Preorder (α i)] : Preorder (∀ i, α i) :=
  { Pi.LE with
  le_refl := sorry
  le_trans := sorry
  lt_iff_le_not_le := sorry }

instance PartialOrder {ι : Type u} {α : ι → Type v} [∀ i, PartialOrder (α i)] :
    PartialOrder (∀ i, α i) :=
  { Pi.Preorder with
  le_antisymm := sorry }

instance semilatticeSup [∀ i, SemilatticeSup (α' i)] : SemilatticeSup (∀ i, α' i) where
  le_sup_left _ _ _ := le_sup_left
  le_sup_right _ _ _ := le_sup_right
  sup_le _ _ _ ac bc i := sup_le (ac i) (bc i)

instance semilatticeInf [∀ i, SemilatticeInf (α' i)] : SemilatticeInf (∀ i, α' i) where
  inf_le_left _ _ _ := inf_le_left
  inf_le_right _ _ _ := inf_le_right
  le_inf _ _ _ ac bc i := le_inf (ac i) (bc i)

instance lattice [∀ i, Lattice (α' i)] : Lattice (∀ i, α' i) :=
{ Pi.semilatticeSup, Pi.semilatticeInf with }

instance orderTop [∀ i, LE (α' i)] [∀ i, OrderTop (α' i)] : OrderTop (∀ i, α' i) :=
  { inferInstanceAs (Top (∀ i, α' i)) with le_top := sorry }

instance orderBot [∀ i, LE (α' i)] [∀ i, OrderBot (α' i)] : OrderBot (∀ i, α' i) :=
  { inferInstanceAs (Bot (∀ i, α' i)) with bot_le := sorry }

instance boundedOrder [∀ i, LE (α' i)] [∀ i, BoundedOrder (α' i)] : BoundedOrder (∀ i, α' i) :=
{ Pi.orderTop, Pi.orderBot with }

instance SupSet {α : Type _} {β : α → Type _} [∀ i, SupSet (β i)] : SupSet (∀ i, β i) :=
  sorry

instance InfSet {α : Type _} {β : α → Type _} [∀ i, InfSet (β i)] : InfSet (∀ i, β i) :=
  sorry

instance completeLattice {α : Type _} {β : α → Type _} [∀ i, CompleteLattice (β i)] :
    CompleteLattice (∀ i, β i) :=
  { Pi.boundedOrder, Pi.lattice with
    le_supₛ := sorry
    infₛ_le := sorry
    supₛ_le := sorry
    le_infₛ := sorry
  }

instance frame {ι : Type _} {π : ι → Type _} [∀ i, Frame (π i)] : Frame (∀ i, π i) :=
  { Pi.completeLattice with }

instance coframe {ι : Type _} {π : ι → Type _} [∀ i, Coframe (π i)] : Coframe (∀ i, π i) :=
  { Pi.completeLattice with infᵢ_sup_le_sup_infₛ := sorry }

end Pi

-- very quick (instantaneous) in Lean 4
instance Pi.completeDistribLattice' {ι : Type _} {π : ι → Type _}
    [∀ i, CompleteDistribLattice (π i)] : CompleteDistribLattice (∀ i, π i) :=
CompleteDistribLattice.mk (Pi.coframe.infᵢ_sup_le_sup_infₛ)

-- takes a long time in Lean 4 (5 seconds wall clock time on my PC) (but very quick in Lean 3)
instance Pi.completeDistribLattice'' {ι : Type _} {π : ι → Type _}
    [∀ i, CompleteDistribLattice (π i)] : CompleteDistribLattice (∀ i, π i) :=
  { Pi.frame, Pi.coframe with }
-- quick Lean 3 version:
-- https://github.com/leanprover-community/mathlib/blob/b26e15a46f1a713ce7410e016d50575bb0bc3aa4/src/order/complete_boolean_algebra.lean#L210
```

**Comment by kbuzzard** [comment]
There is some sorried data in the above; unsorrying it seems to make elaboration quicker, but it's still noticeably slow (a couple of seconds on a fast machine):
```lean
universe u v

instance {ι : Type u} {α : ι → Type v} [∀ i, LE (α i)] : LE (∀ i, α i) where
  le x y := ∀ i, x i ≤ y i

class Top (α : Type u) where
  top : α

class Bot (α : Type u) where
  bot : α

notation "⊤" => Top.top

notation "⊥" => Bot.bot

class Preorder (α : Type u) extends LE α, LT α where
  le_refl : ∀ a : α, a ≤ a
  le_trans : ∀ a b c : α, a ≤ b → b ≤ c → a ≤ c
  lt := λ a b => a ≤ b ∧ ¬ b ≤ a
  lt_iff_le_not_le : ∀ a b : α, a < b ↔ (a ≤ b ∧ ¬ b ≤ a)

class PartialOrder (α : Type u) extends Preorder α :=
(le_antisymm : ∀ a b : α, a ≤ b → b ≤ a → a = b)

def Set (α : Type u) := α → Prop

def setOf {α : Type u} (p : α → Prop) : Set α :=
p

namespace Set

variable {α ι : Type _}

protected def Mem (a : α) (s : Set α) : Prop :=
s a

instance : Membership α (Set α) :=
⟨Set.Mem⟩

def range (f : ι → α) : Set α :=
  setOf (λ x => ∃ y, f y = x)

end Set

class InfSet (α : Type _) where
  infₛ : Set α → α

class SupSet (α : Type _) where
  supₛ : Set α → α

export SupSet (supₛ)

export InfSet (infₛ)

open Set

def supᵢ {α : Type _} [SupSet α] {ι} (s : ι → α) : α :=
  supₛ (range s)

def infᵢ {α : Type _} [InfSet α] {ι} (s : ι → α) : α :=
  infₛ (range s)

class HasSup (α : Type u) where
  sup : α → α → α

class HasInf (α : Type u) where
  inf : α → α → α

@[inherit_doc]
infixl:68 " ⊔ " => HasSup.sup

@[inherit_doc]
infixl:69 " ⊓ " => HasInf.inf

class SemilatticeSup (α : Type u) extends HasSup α, PartialOrder α where
  protected le_sup_left : ∀ a b : α, a ≤ a ⊔ b
  protected le_sup_right : ∀ a b : α, b ≤ a ⊔ b
  protected sup_le : ∀ a b c : α, a ≤ c → b ≤ c → a ⊔ b ≤ c

class SemilatticeInf (α : Type u) extends HasInf α, PartialOrder α where
  protected inf_le_left : ∀ a b : α, a ⊓ b ≤ a
  protected inf_le_right : ∀ a b : α, a ⊓ b ≤ b
  protected le_inf : ∀ a b c : α, a ≤ b → a ≤ c → a ≤ b ⊓ c

class Lattice (α : Type u) extends SemilatticeSup α, SemilatticeInf α

class CompleteSemilatticeInf (α : Type _) extends PartialOrder α, InfSet α where
  infₛ_le : ∀ s, ∀ a, a ∈ s → infₛ s ≤ a
  le_infₛ : ∀ s a, (∀ b, b ∈ s → a ≤ b) → a ≤ infₛ s

class CompleteSemilatticeSup (α : Type _) extends PartialOrder α, SupSet α where
  le_supₛ : ∀ s, ∀ a, a ∈ s → a ≤ supₛ s
  supₛ_le : ∀ s a, (∀ b, b ∈ s → b ≤ a) → supₛ s ≤ a

class CompleteLattice (α : Type _) extends Lattice α, CompleteSemilatticeSup α,
  CompleteSemilatticeInf α, Top α, Bot α where
  protected le_top : ∀ x : α, x ≤ ⊤
  protected bot_le : ∀ x : α, ⊥ ≤ x

class Frame (α : Type _) extends CompleteLattice α where

class Coframe (α : Type _) extends CompleteLattice α where
  infᵢ_sup_le_sup_infₛ (a : α) (s : Set α) : (infᵢ (λ b => a ⊔ b)) ≤ a ⊔ infₛ s
  -- should be ⨅ b ∈ s but I had problems with notation

class CompleteDistribLattice (α : Type _) extends Frame α where
  infᵢ_sup_le_sup_infₛ : ∀ a s, (infᵢ (λ b => a ⊔ b)) ≤ a ⊔ infₛ s
  -- similarly this is not quite right mathematically but this doesn't matter

-- See note [lower instance priority]
instance (priority := 100) CompleteDistribLattice.toCoframe {α : Type _} [CompleteDistribLattice α] :
    Coframe α :=
  { ‹CompleteDistribLattice α› with }

class OrderTop (α : Type u) [LE α] extends Top α where
  le_top : ∀ a : α, a ≤ ⊤

class OrderBot (α : Type u) [LE α] extends Bot α where
  bot_le : ∀ a : α, ⊥ ≤ a

class BoundedOrder (α : Type u) [LE α] extends OrderTop α, OrderBot α

instance(priority := 100) CompleteLattice.toBoundedOrder  {α : Type _} [h : CompleteLattice α] :
    BoundedOrder α :=
  { h with }

namespace Pi

variable {ι : Type _} {α' : ι → Type _}

instance [∀ i, Bot (α' i)] : Bot (∀ i, α' i) :=
  ⟨fun _ => ⊥⟩

instance [∀ i, Top (α' i)] : Top (∀ i, α' i) :=
  ⟨fun _ => ⊤⟩

protected instance LE {ι : Type u} {α : ι → Type v} [∀ i, LE (α i)] : LE (∀ i, α i) where
  le x y := ∀ i, x i ≤ y i

instance Preorder {ι : Type u} {α : ι → Type v} [∀ i, Preorder (α i)] : Preorder (∀ i, α i) :=
  { Pi.LE with
  le_refl := sorry
  le_trans := sorry
  lt_iff_le_not_le := sorry }

instance PartialOrder {ι : Type u} {α : ι → Type v} [∀ i, PartialOrder (α i)] :
    PartialOrder (∀ i, α i) :=
  { Pi.Preorder with
  le_antisymm := sorry }

instance semilatticeSup [∀ i, SemilatticeSup (α' i)] : SemilatticeSup (∀ i, α' i) where
  le_sup_left _ _ _ := SemilatticeSup.le_sup_left _ _
  le_sup_right _ _ _ := SemilatticeSup.le_sup_right _ _
  sup_le _ _ _ ac bc i := SemilatticeSup.sup_le _ _ _ (ac i) (bc i)

instance semilatticeInf [∀ i, SemilatticeInf (α' i)] : SemilatticeInf (∀ i, α' i) where
  inf_le_left _ _ _ := SemilatticeInf.inf_le_left _ _
  inf_le_right _ _ _ := SemilatticeInf.inf_le_right _ _
  le_inf _ _ _ ac bc i := SemilatticeInf.le_inf _ _ _ (ac i) (bc i)

instance lattice [∀ i, Lattice (α' i)] : Lattice (∀ i, α' i) :=
{ Pi.semilatticeSup, Pi.semilatticeInf with }

instance orderTop [∀ i, LE (α' i)] [∀ i, OrderTop (α' i)] : OrderTop (∀ i, α' i) :=
  { inferInstanceAs (Top (∀ i, α' i)) with le_top := sorry }

instance orderBot [∀ i, LE (α' i)] [∀ i, OrderBot (α' i)] : OrderBot (∀ i, α' i) :=
  { inferInstanceAs (Bot (∀ i, α' i)) with bot_le := sorry }

instance boundedOrder [∀ i, LE (α' i)] [∀ i, BoundedOrder (α' i)] : BoundedOrder (∀ i, α' i) :=
{ Pi.orderTop, Pi.orderBot with }

instance SupSet {α : Type _} {β : α → Type _} [∀ i, SupSet (β i)] : SupSet (∀ i, β i) :=
  ⟨fun s i => supᵢ (λ (f : {f : ∀ i, β i // f ∈ s}) => f.1 i)⟩

instance InfSet {α : Type _} {β : α → Type _} [∀ i, InfSet (β i)] : InfSet (∀ i, β i) :=
  ⟨fun s i => infᵢ (λ (f : {f : ∀ i, β i // f ∈ s}) => f.1 i)⟩

instance completeLattice {α : Type _} {β : α → Type _} [∀ i, CompleteLattice (β i)] :
    CompleteLattice (∀ i, β i) :=
  { Pi.boundedOrder, Pi.lattice with
    le_supₛ := sorry
    infₛ_le := sorry
    supₛ_le := sorry
    le_infₛ := sorry
  }

instance frame {ι : Type _} {π : ι → Type _} [∀ i, Frame (π i)] : Frame (∀ i, π i) :=
  { Pi.completeLattice with }

instance coframe {ι : Type _} {π : ι → Type _} [∀ i, Coframe (π i)] : Coframe (∀ i, π i) :=
  { Pi.completeLattice with infᵢ_sup_le_sup_infₛ := sorry }

end Pi

-- very quick (instantaneous) in Lean 4
instance Pi.completeDistribLattice' {ι : Type _} {π : ι → Type _}
    [∀ i, CompleteDistribLattice (π i)] : CompleteDistribLattice (∀ i, π i) :=
CompleteDistribLattice.mk (Pi.coframe.infᵢ_sup_le_sup_infₛ)

-- takes around 2 seconds wall clock time on my PC (but very quick in Lean 3)
instance Pi.completeDistribLattice'' {ι : Type _} {π : ι → Type _}
    [∀ i, CompleteDistribLattice (π i)] : CompleteDistribLattice (∀ i, π i) :=
  { Pi.frame, Pi.coframe with }
-- quick Lean 3 version:
-- https://github.com/leanprover-community/mathlib/blob/b26e15a46f1a713ce7410e016d50575bb0bc3aa4/src/order/complete_boolean_algebra.lean#L210
```

**Comment by kbuzzard** [comment]
`#print Pi.completeDistribLattice''` shows that this is the slow declaration:
```lean
def foo {ι : Type _} {π : ι → Type _} [∀ i, CompleteDistribLattice (π i)] := 
    @CompleteDistribLattice.mk ((i : ι) → π i)
    (@Frame.mk ((i : ι) → π i) (@Frame.toCompleteLattice ((i : ι) → π i) inferInstance))
    (@Pi.completeDistribLattice''.proof_1 ι π inferInstance)
```

**Comment by Kha** [comment]
A partially unfolded trace with timings:
```

[Meta.isDefEq] [1641.734608s] ✅ ∀ (a : (i : ι) → π i) (s : Set ((i : ι) → π i)),
      (infᵢ fun b => a ⊔ b) ≤
        a ⊔
          infₛ
            s =?= ∀ (a : (i : ?m.39581) → ?m.39582 i) (s : Set ((i : ?m.39581) → ?m.39582 i)),
      (infᵢ fun b => a ⊔ b) ≤ a ⊔ infₛ s ▼
  [] [0.150788s] ✅ (i : ι) → π i =?= (i : ?m.39581) → ?m.39582 i ▶
  [] [0.165036s] ✅ Set ((i : ι) → π i) =?= Set ((i : ι) → π i) ▶
  [] [1641.381627s] ✅ (infᵢ fun b => a ⊔ b) ≤ a ⊔ infₛ s =?= (infᵢ fun b => a ⊔ b) ≤ a ⊔ infₛ s ▼
    [] [1641.109244s] ✅ Preorder.toLE.1 (infᵢ fun b => a ⊔ b)
          (a ⊔ infₛ s) =?= Preorder.toLE.1 (infᵢ fun b => a ⊔ b) (a ⊔ infₛ s) ▼
      [] [1638.890859s] ✅ (infᵢ fun b => a ⊔ b) ≤ a ⊔ infₛ s =?= (infᵢ fun b => a ⊔ b) ≤ a ⊔ infₛ s ▼
        [] [1634.523858s] ✅ infᵢ fun b => a ⊔ b =?= infᵢ fun b => a ⊔ b ▼
          [] [7.676735s] ✅ fun b => a ⊔ b =?= fun b => a ⊔ b ▶
          [] [0.002304s] ✅ (i : ι) → π i =?= (i : ι) → π i 
          [] [1626.628029s] ✅ CompleteLattice.toInfSet =?= CompleteLattice.toInfSet ▼
            [] [1626.445393s] ✅ Frame.toCompleteLattice.5 =?= Coframe.toCompleteLattice.5 ▼
              [] [1626.157505s] ✅ Frame.toCompleteLattice =?= Coframe.toCompleteLattice ▼
                [] [1625.786923s] ✅ Frame.mk.1 =?= src✝.1 ▼
                  [] [1625.697736s] ✅ Frame.toCompleteLattice =?= src✝.1 ▼
                    [] [1625.583894s] ✅ Frame.toCompleteLattice =?= CompleteLattice.mk
                          (_ : ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i), a ∈ s → a ≤ supₛ s)
                          (_ :
                            ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i),
                              (∀ (b : (i : ι) → π i), b ∈ s → b ≤ a) → supₛ s ≤ a)
                          (_ : ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i), a ∈ s → infₛ s ≤ a)
                          (_ :
                            ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i),
                              (∀ (b : (i : ι) → π i), b ∈ s → a ≤ b) → a ≤ infₛ s)
                          (_ : ∀ (x : (i : ι) → π i), x ≤ ⊤) (_ : ∀ (x : (i : ι) → π i), ⊥ ≤ x) ▼
                      [] [0.074591s] ✅ CompleteLattice ((i : ι) → π i) =?= CompleteLattice ((i : ι) → π i) ▶
                      [] [331.381829s] ✅ CompleteLattice.toLattice =?= CompleteLattice.toLattice ▼
                        [] [331.203733s] ✅ Frame.toCompleteLattice.1 =?= Pi.completeLattice.1 ▼
                          [] [330.893076s] ✅ Frame.toCompleteLattice =?= Pi.completeLattice ▼
                            [] [330.629493s] ✅ Frame.toCompleteLattice =?= let src := Pi.boundedOrder;
                                let src_1 := Pi.lattice;
                                CompleteLattice.mk
                                  (_ : ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i), a ∈ s → a ≤ supₛ s)
                                  (_ :
                                    ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i),
                                      (∀ (b : (i : ι) → π i), b ∈ s → b ≤ a) → supₛ s ≤ a)
                                  (_ : ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i), a ∈ s → infₛ s ≤ a)
                                  (_ :
                                    ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i),
                                      (∀ (b : (i : ι) → π i), b ∈ s → a ≤ b) → a ≤ infₛ s)
                                  (_ : ∀ (a : (i : ι) → π i), a ≤ ⊤) (_ : ∀ (a : (i : ι) → π i), ⊥ ≤ a) ▼
                              [] [330.608959s] ✅ Frame.toCompleteLattice =?= CompleteLattice.mk
                                    (_ : ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i), a ∈ s → a ≤ supₛ s)
                                    (_ :
                                      ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i),
                                        (∀ (b : (i : ι) → π i), b ∈ s → b ≤ a) → supₛ s ≤ a)
                                    (_ : ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i), a ∈ s → infₛ s ≤ a)
                                    (_ :
                                      ∀ (s : Set ((i : ι) → π i)) (a : (i : ι) → π i),
                                        (∀ (b : (i : ι) → π i), b ∈ s → a ≤ b) → a ≤ infₛ s)
                                    (_ : ∀ (a : (i : ι) → π i), a ≤ ⊤) (_ : ∀ (a : (i : ι) → π i), ⊥ ≤ a) ▼
                                [] [0.104344s] ✅ CompleteLattice ((i : ι) → π i) =?= CompleteLattice ((i : ι) → (fun i => π i) i) ▶
                                [] [272.084786s] ✅ CompleteLattice.toLattice =?= Lattice.mk (_ : ∀ (a b : (i : ι) → π i), a ⊓ b ≤ a)
                                      (_ : ∀ (a b : (i : ι) → π i), a ⊓ b ≤ b)
                                      (_ : ∀ (a b c : (i : ι) → π i), a ≤ b → a ≤ c → a ≤ b ⊓ c) ▼
                                  [] [0.001886s] ✅ Lattice ((i : ι) → (fun i => π i) i) =?= Lattice ((i : ι) → (fun i => π i) i) 
                                  [] [129.242522s] ✅ Lattice.toSemilatticeSup =?= Lattice.toSemilatticeSup ▼
                                    [] [129.058908s] ✅ CompleteLattice.toLattice.1 =?= Pi.lattice.1 ▼
                                      [] [128.972164s] ✅ CompleteLattice.toLattice =?= Pi.lattice ▼
                                        [] [128.626028s] ✅ CompleteLattice.toLattice =?= let src := Pi.semilatticeSup;
                                            let src_1 := Pi.semilatticeInf;
                                            Lattice.mk (_ : ∀ (a b : (i : ι) → (fun i => π i) i), a ⊓ b ≤ a)
                                              (_ : ∀ (a b : (i : ι) → (fun i => π i) i), a ⊓ b ≤ b)
                                              (_ : ∀ (a b c : (i : ι) → (fun i => π i) i), a ≤ b → a ≤ c → a ≤ b ⊓ c) ▼
                                          [] [128.608848s] ✅ CompleteLattice.toLattice =?= Lattice.mk (_ : ∀ (a b : (i : ι) → (fun i => π i) i), a ⊓ b ≤ a)
                                                (_ : ∀ (a b : (i : ι) → (fun i => π i) i), a ⊓ b ≤ b)
                                                (_ : ∀ (a b c : (i : ι) → (fun i => π i) i), a ≤ b → a ≤ c → a ≤ b ⊓ c) ▼
                                            [] [0.075569s] ✅ Lattice ((i : ι) → (fun i => π i) i) =?= Lattice ((i : ι) → (fun i => (fun i => π i) i) i) ▶
                                            [] [73.129498s] ✅ Lattice.toSemilatticeSup =?= SemilatticeSup.mk (_ : ∀ (a b : (i : ι) → (fun i => π i) i), a ≤ a ⊔ b)
                                                  (_ : ∀ (a b : (i : ι) → (fun i => π i) i), b ≤ a ⊔ b)
                                                  (_ :
                                                    ∀ (a b c : (i : ι) → (fun i => π i) i), a ≤ c → b ≤ c → a ⊔ b ≤ c) ▼
                                              [] [0.002793s] ✅ SemilatticeSup
                                                    ((i : ι) →
                                                      (fun i => (fun i => π i) i)
                                                        i) =?= SemilatticeSup ((i : ι) → (fun i => (fun i => π i) i) i) 
                                              [] [25.652696s] ✅ SemilatticeSup.toHasSup =?= SemilatticeSup.toHasSup ▼
                                                [] [25.467476s] ✅ Lattice.toSemilatticeSup.1 =?= Pi.semilatticeSup.1 ▼
                                                  [] [25.378986s] ✅ Lattice.toSemilatticeSup =?= Pi.semilatticeSup ▼
                                                    [] [24.931229s] ✅ Lattice.toSemilatticeSup =?= SemilatticeSup.mk
                                                          (_ :
                                                            ∀ (x x_1 : (i : ι) → (fun i => (fun i => π i) i) i)
                                                              (x_2 : ι), x x_2 ≤ x x_2 ⊔ x_1 x_2)
                                                          (_ :
                                                            ∀ (x x_1 : (i : ι) → (fun i => (fun i => π i) i) i)
                                                              (x_2 : ι), x_1 x_2 ≤ x x_2 ⊔ x_1 x_2)
                                                          (_ :
                                                            ∀ (x x_1 x_2 : (i : ι) → (fun i => (fun i => π i) i) i),
                                                              x ≤ x_2 → x_1 ≤ x_2 → ∀ (i : ι), x i ⊔ x_1 i ≤ x_2 i) ▼
                                                      [] [0.108325s] ✅ SemilatticeSup
                                                            ((i : ι) →
                                                              (fun i => (fun i => π i) i)
                                                                i) =?= SemilatticeSup
                                                            ((i : ι) → (fun i => (fun i => (fun i => π i) i) i) i) ▶
                                                      [] [2.648682s] ✅ SemilatticeSup.toHasSup =?= { sup := fun x x_1 x_2 => SemilatticeSup.toHasSup.1 (x x_2) (x_1 x_2) } ▼
                                                        [] [0.002374s] ✅ HasSup
                                                              ((i : ι) →
                                                                (fun i => (fun i => (fun i => π i) i) i)
                                                                  i) =?= HasSup
                                                              ((i : ι) → (fun i => (fun i => (fun i => π i) i) i) i) 
                                                        [] [2.558656s] ✅ HasSup.sup =?= fun x x_1 x_2 => SemilatticeSup.toHasSup.1 (x x_2) (x_1 x_2) ▼
                                                          [] [2.541614s] ✅ HasSup.sup =?= fun x x_1 x_2 => SemilatticeSup.toHasSup.1 (x x_2) (x_1 x_2) ▼
                                                            [] [2.492794s] ✅ fun x x_1 x_2 => SemilatticeSup.toHasSup.1 (x x_2) (x_1 x_2) =?= fun a => HasSup.sup a ▼
                                                              [] [0.001467s] ✅ (i : ι) →
                                                                    (fun i => (fun i => (fun i => π i) i) i)
                                                                      i =?= (i : ι) →
                                                                    (fun i => (fun i => (fun i => π i) i) i) i 
                                                              [] [2.468979s] ✅ fun x x_1 => SemilatticeSup.toHasSup.1 (x✝ x_1) (x x_1) =?= HasSup.sup x✝ ▼
                                                                [] [2.343753s] ✅ fun x x_1 => SemilatticeSup.toHasSup.1 (x✝ x_1) (x x_1) =?= fun a => x✝ ⊔ a ▼
                                                                  [] [0.001466s] ✅ (i : ι) →
                                                                        (fun i => (fun i => (fun i => π i) i) i)
                                                                          i =?= (i : ι) →
                                                                        (fun i => (fun i => (fun i => π i) i) i) i 
                                                                  [] [2.323498s] ✅ fun x => SemilatticeSup.toHasSup.1 (x✝¹ x) (x✝ x) =?= x✝¹ ⊔ x✝ ▼
                                                                    [] [2.269371s] ✅ fun x => SemilatticeSup.toHasSup.1 (x✝¹ x) (x✝ x) =?= fun i => HasSup.sup x✝¹ x✝ i ▼
                                                                      [] [0.001886s] ✅ ι =?= ι 
                                                                      [] [2.250025s] ✅ SemilatticeSup.toHasSup.1 (x✝² x✝) (x✝¹ x✝) =?= HasSup.sup x✝² x✝¹ x✝ ▼
                                                                        [] [1.859678s] ✅ SemilatticeSup.toHasSup.1 (x✝² x✝) (x✝¹ x✝) =?= SemilatticeSup.toHasSup.1 x✝² x✝¹ x✝ ▼
                                                                          [] [1.305205s] ✅ SemilatticeSup.toHasSup.1 (x✝² x✝) (x✝¹ x✝) =?= SemilatticeSup.toHasSup.1 (x✝² x✝) (x✝¹ x✝) ▼
                                                                            [] [0.892369s] ✅ SemilatticeSup.toHasSup.1 =?= SemilatticeSup.toHasSup.1 ▼
                                                                              [] [0.812749s] ✅ SemilatticeSup.toHasSup =?= SemilatticeSup.toHasSup ▼
                                                                                [] [0.740673s] ✅ ((fun i => Lattice.toSemilatticeSup) x✝).1 =?= ((fun i => Lattice.toSemilatticeSup) x✝).1 ▼
                                                                                  [] [0.576265s] ✅ (fun i => Lattice.toSemilatticeSup) x✝ =?= (fun i => Lattice.toSemilatticeSup) x✝ ▼
                                                                                    [] [0.546163s] ✅ Lattice.toSemilatticeSup =?= Lattice.toSemilatticeSup ▼
                                                                                      [] [0.507610s] ✅ ((fun i => CompleteLattice.toLattice) x✝).1 =?= ((fun i => CompleteLattice.toLattice) x✝).1 ▼
                                                                                        [] [0.363108s] ✅ (fun i => CompleteLattice.toLattice) x✝ =?= (fun i => CompleteLattice.toLattice) x✝ ▼
                                                                                          [] [0.333425s] ✅ CompleteLattice.toLattice =?= CompleteLattice.toLattice ▼
                                                                                            [] [0.294662s] ✅ ((fun i => Coframe.toCompleteLattice) x✝).1 =?= ((fun i => Frame.toCompleteLattice) x✝).1 ▼
                                                                                              [] [0.104134s] ✅ (fun i => Coframe.toCompleteLattice) x✝ =?= (fun i => Frame.toCompleteLattice) x✝ ▼
                                                                                                [] [0.073614s] ✅ Coframe.toCompleteLattice =?= Frame.toCompleteLattice ▼
                                                                                                  [] [0.002794s] ✅ Frame.toCompleteLattice =?= Frame.toCompleteLattice 
                                                                            [] [0.001955s] ✅ x✝² x✝ =?= x✝² x✝ 
                                                                            [] [0.001397s] ✅ x✝¹ x✝ =?= x✝¹ x✝ 
                                                      [] [1.399281s] ✅ SemilatticeSup.toPartialOrder =?= Pi.PartialOrder ▶
                                                      [] [4.783118s] ✅ SemilatticeSup.le_sup_left =?= Pi.semilatticeSup.proof_1 ▶
                                                      [] [4.868256s] ✅ SemilatticeSup.le_sup_right =?= Pi.semilatticeSup.proof_2 ▶
                                                      [] [10.858240s] ✅ SemilatticeSup.sup_le =?= Pi.semilatticeSup.proof_3 ▶
                                              [] [25.427247s] ✅ SemilatticeSup.toPartialOrder =?= SemilatticeSup.toPartialOrder ▶
                                              [] [4.867976s] ✅ SemilatticeSup.le_sup_left =?= Pi.lattice.proof_1 ▶
                                              [] [5.333821s] ✅ SemilatticeSup.le_sup_right =?= Pi.lattice.proof_2 ▶
                                              [] [11.453921s] ✅ SemilatticeSup.sup_le =?= Pi.lattice.proof_3 ▶
                                            [] [10.425919s] ✅ Lattice.toHasInf =?= SemilatticeInf.toHasInf ▶
                                            [] [13.706459s] ✅ Lattice.inf_le_left =?= Pi.lattice.proof_4 ▶
                                            [] [14.312198s] ✅ Lattice.inf_le_right =?= Pi.lattice.proof_5 ▶
                                            [] [16.564528s] ✅ Lattice.le_inf =?= Pi.lattice.proof_6 ▶
                                  [] [102.305714s] ✅ Lattice.toHasInf =?= Lattice.toHasInf ▶
                                  [] [12.303966s] ✅ Lattice.inf_le_left =?= Pi.completeLattice.proof_1 ▶
                                  [] [11.326739s] ✅ Lattice.inf_le_right =?= Pi.completeLattice.proof_2 ▶
                                  [] [16.383777s] ✅ Lattice.le_inf =?= Pi.completeLattice.proof_3 ▶
                                [] [0.694298s] ✅ CompleteLattice.toSupSet =?= Pi.SupSet ▶
                                [] [4.504728s] ✅ CompleteLattice.le_supₛ =?= Pi.completeLattice.proof_4 ▶
                                [] [7.136997s] ✅ CompleteLattice.supₛ_le =?= Pi.completeLattice.proof_5 ▶
                                [] [0.668666s] ✅ CompleteLattice.toInfSet =?= Pi.InfSet ▶
                                [] [4.276975s] ✅ CompleteLattice.infₛ_le =?= Pi.completeLattice.proof_6 ▶
                                [] [6.734290s] ✅ CompleteLattice.le_infₛ =?= Pi.completeLattice.proof_7 ▶
                                [] [6.412458s] ✅ CompleteLattice.toTop =?= OrderTop.toTop ▶
                                [] [11.402099s] ✅ CompleteLattice.toBot =?= OrderBot.toBot ▶
                                [] [8.867399s] ✅ CompleteLattice.le_top =?= Pi.completeLattice.proof_8 ▶
                                [] [6.806506s] ✅ CompleteLattice.bot_le =?= Pi.completeLattice.proof_9 ▶
                      [] [335.955002s] ✅ CompleteLattice.toSupSet =?= CompleteLattice.toSupSet ▶
                      [] [3.917638s] ✅ CompleteLattice.le_supₛ =?= Pi.coframe.proof_1 ▶
                      [] [7.282547s] ✅ CompleteLattice.supₛ_le =?= Pi.coframe.proof_2 ▶
                      [] [331.038765s] ✅ CompleteLattice.toInfSet =?= CompleteLattice.toInfSet ▶
                      [] [3.687998s] ✅ CompleteLattice.infₛ_le =?= Pi.coframe.proof_3 ▶
                      [] [6.614091s] ✅ CompleteLattice.le_infₛ =?= Pi.coframe.proof_4 ▶
                      [] [300.799347s] ✅ CompleteLattice.toTop =?= CompleteLattice.toTop ▶
                      [] [293.999686s] ✅ CompleteLattice.toBot =?= CompleteLattice.toBot ▶
                      [] [4.476372s] ✅ CompleteLattice.le_top =?= Pi.coframe.proof_5 ▶
                      [] [5.007659s] ✅ CompleteLattice.bot_le =?= Pi.coframe.proof_6 ▶
          [] [0.001956s] ✅ (i : ι) → π i =?= (i : ι) → π i 
        [] [3.041472s] ✅ a ⊔ infₛ s =?= a ⊔ infₛ s ▶
        [] [0.002375s] ✅ (i : ι) →
              (fun i => (fun i => (fun i => (fun i => (fun i => π i) i) i) i) i)
                i =?= (i : ι) → (fun i => (fun i => (fun i => (fun i => (fun i => π i) i) i) i) i) i 
        [] [0.921493s] ✅ Pi.LE =?= Pi.LE ▶

[Meta.isDefEq] [1613.892647s] ✅ ∀ (a : (i : ι) → π i) (s : Set ((i : ι) → π i)),
      (infᵢ fun b => a ⊔ b) ≤
        a ⊔ infₛ s =?= ∀ (a : (i : ι) → π i) (s : Set ((i : ι) → π i)), (infᵢ fun b => a ⊔ b) ≤ a ⊔ infₛ s ▶
```

**Comment by Kha** [comment]
The tragic line is 
![image](https://user-images.githubusercontent.com/109126/209688472-a074f105-b0eb-40ed-9d00-9598d837a026.png)
where we're *so close*

**Comment by kbuzzard** [comment]
Gabriel [points out on Zulip](https://leanprover.zulipchat.com/#narrow/stream/287929-mathlib4/topic/Performance.20issue.20with.20.60CompleteBooleanAlgebra.60/near/318183710) that changing the definitions of `Frame` and `Coframe` so that they also extend `LE` like so:
```lean
class Frame (α : Type _) extends LE α, CompleteLattice α where

class Coframe (α : Type _) extends LE α, CompleteLattice α where
  infᵢ_sup_le_sup_infₛ (a : α) (s : Set α) : (infᵢ (λ b => a ⊔ b)) ≤ a ⊔ infₛ s
```
makes both instances very quick.

**Comment by kbuzzard** [comment]
Here's another one: in mathlib (where the classes are actually slightly more complex -- I didn't want to have to minimise a bunch of stuff about `Rat`) this actually times out unless you increase max heartbeats.
```lean
-- See https://github.com/leanprover-community/mathlib4/blob/489f10454a7ae53fdc6a95d2ac237cbc20e69b36/Mathlib/Algebra/Order/Positive/Field.lean#L42-L46
-- for the actual mathlib problem, which is even slower

universe u

class Preorder (α : Type u) extends LE α, LT α where
  le_refl : ∀ a : α, a ≤ a
  le_trans : ∀ a b c : α, a ≤ b → b ≤ c → a ≤ c
  lt := λ a b => a ≤ b ∧ ¬ b ≤ a
  lt_iff_le_not_le : ∀ a b : α, a < b ↔ (a ≤ b ∧ ¬ b ≤ a) := by intros; rfl

class PartialOrder (α : Type u) extends Preorder α :=
(le_antisymm : ∀ a b : α, a ≤ b → b ≤ a → a = b)

class LinearOrder (α : Type u) extends PartialOrder α, Min α, Max α :=
  /-- A linear order is total. -/
  le_total (a b : α) : a ≤ b ∨ b ≤ a
  decidable_le : DecidableRel (. ≤ . : α → α → Prop)
  min := fun a b => if a ≤ b then a else b
  max := fun a b => if a ≤ b then b else a
  /-- The minimum function is equivalent to the one you get from `minOfLe`. -/
  min_def : ∀ a b, min a b = if a ≤ b then a else b := by intros; rfl
  /-- The minimum function is equivalent to the one you get from `maxOfLe`. -/
  max_def : ∀ a b, max a b = if a ≤ b then b else a := by intros; rfl

instance {α : Type u} [LinearOrder α] : DecidableRel (. ≤ . : α → α → Prop) := LinearOrder.decidable_le
instance {α : Type u} [LinearOrder α] (x y : α) : Decidable (x ≤ y) := LinearOrder.decidable_le x y

class Zero (α : Type u) where
  zero : α

instance Zero.toOfNat0 {α} [Zero α] : OfNat α (nat_lit 0) where
  ofNat := ‹Zero α›.1

instance Zero.ofOfNat0 {α} [OfNat α (nat_lit 0)] : Zero α where
  zero := 0

class One (α : Type u) where
  one : α

instance One.toOfNat1 {α} [One α] : OfNat α (nat_lit 1) where
  ofNat := ‹One α›.1

instance One.ofOfNat1 {α} [OfNat α (nat_lit 1)] : One α where
  one := 1

class Nontrivial (α : Type _) : Prop where
  exists_pair_ne : ∃ x y : α, x ≠ y

class MulZeroClass (M₀ : Type _) extends Mul M₀, Zero M₀ where
  zero_mul : ∀ a : M₀, 0 * a = 0
  mul_zero : ∀ a : M₀, a * 0 = 0

class AddSemigroup (G : Type u) extends Add G where
  /-- Addition is associative -/
  add_assoc : ∀ a b c : G, a + b + c = a + (b + c)

class Semigroup (G : Type u) extends Mul G where
  mul_assoc : ∀ a b c : G, a * b * c = a * (b * c)

class CommSemigroup (G : Type u) extends Semigroup G where
  mul_comm : ∀ a b : G, a * b = b * a

class AddCommSemigroup (G : Type u) extends AddSemigroup G where
  add_comm : ∀ a b : G, a + b = b + a

class SemigroupWithZero (S₀ : Type _) extends Semigroup S₀, MulZeroClass S₀

class MulOneClass (M : Type u) extends One M, Mul M where
  one_mul : ∀ a : M, 1 * a = a
  mul_one : ∀ a : M, a * 1 = a

class AddZeroClass (M : Type u) extends Zero M, Add M where
  /-- Zero is a left neutral element for addition -/
  zero_add : ∀ a : M, 0 + a = a
  /-- Zero is a right neutral element for addition -/
  add_zero : ∀ a : M, a + 0 = a

class MulZeroOneClass (M₀ : Type u) extends MulOneClass M₀, MulZeroClass M₀

class AddMonoid (M : Type u) extends AddSemigroup M, AddZeroClass M where

class Monoid (M : Type u) extends Semigroup M, MulOneClass M where

class AddCommMonoid (M : Type u) extends AddMonoid M, AddCommSemigroup M

class CommMonoid (M : Type u) extends Monoid M, CommSemigroup M

class MonoidWithZero (M₀ : Type u) extends Monoid M₀, MulZeroOneClass M₀, SemigroupWithZero M₀

class IsLeftCancelMulZero (M₀ : Type u) [Mul M₀] [Zero M₀] : Prop where
  protected mul_left_cancel_of_ne_zero : ∀ {a b c : M₀}, a ≠ 0 → a * b = a * c → b = c

class IsRightCancelMulZero (M₀ : Type u) [Mul M₀] [Zero M₀] : Prop where

class IsCancelMulZero (M₀ : Type u) [Mul M₀] [Zero M₀]
  extends IsLeftCancelMulZero M₀, IsRightCancelMulZero M₀ : Prop

class CancelMonoidWithZero (M₀ : Type _) extends MonoidWithZero M₀, IsCancelMulZero M₀

class CommMonoidWithZero (M₀ : Type _) extends CommMonoid M₀, MonoidWithZero M₀

class Inv (α : Type u) where
  inv : α → α

postfix:max "⁻¹" => Inv.inv

class DivInvMonoid (G : Type u) extends Monoid G, Inv G, Div G where
  div a b := a * b⁻¹
  /-- `a / b := a * b⁻¹` -/
  div_eq_mul_inv : ∀ a b : G, a / b = a * b⁻¹ := by intros; rfl

class SubNegMonoid (G : Type u) extends AddMonoid G, Neg G, Sub G where
  sub a b := a + -b
  sub_eq_add_neg : ∀ a b : G, a - b = a + -b := by intros; rfl

class GroupWithZero (G₀ : Type u) extends MonoidWithZero G₀, DivInvMonoid G₀, Nontrivial G₀ where
  inv_zero : (0 : G₀)⁻¹ = 0
  mul_inv_cancel (a : G₀) : a ≠ 0 → a * a⁻¹ = 1

class Distrib (R : Type _) extends Mul R, Add R where
  protected left_distrib : ∀ a b c : R, a * (b + c) = a * b + a * c
  protected right_distrib : ∀ a b c : R, (a + b) * c = a * c + b * c

class CommGroupWithZero (G₀ : Type _) extends CommMonoidWithZero G₀, GroupWithZero G₀

class NonUnitalNonAssocSemiring (α : Type u) extends AddCommMonoid α, Distrib α, MulZeroClass α

class NonUnitalSemiring (α : Type u) extends NonUnitalNonAssocSemiring α, SemigroupWithZero α

class AddMonoidWithOne (R : Type u) extends AddMonoid R, One R where

class AddCommMonoidWithOne (R : Type _) extends AddMonoidWithOne R, AddCommMonoid R

class NonAssocSemiring (α : Type u) extends NonUnitalNonAssocSemiring α, MulZeroOneClass α,
    AddCommMonoidWithOne α

class Semiring (α : Type u) extends NonUnitalSemiring α, NonAssocSemiring α, MonoidWithZero α

class NonUnitalCommSemiring (α : Type u) extends NonUnitalSemiring α, CommSemigroup α

class CommSemiring (R : Type u) extends Semiring R, CommMonoid R

instance (priority := 100) CommSemiring.toNonUnitalCommSemiring (α : Type u) [CommSemiring α] :
    NonUnitalCommSemiring α :=
  { inferInstanceAs (CommMonoid α), inferInstanceAs (CommSemiring α) with }

instance (priority := 100) CommSemiring.toCommMonoidWithZero (α : Type u)  [CommSemiring α] :
    CommMonoidWithZero α :=
  { inferInstanceAs (CommMonoid α), inferInstanceAs (CommSemiring α) with }

class Group (G : Type u) extends DivInvMonoid G where
  mul_left_inv : ∀ a : G, a⁻¹ * a = 1

/-- An `AddGroup` is an `AddMonoid` with a unary `-` satisfying `-a + a = 0`.

There is also a binary operation `-` such that `a - b = a + -b`,
with a default so that `a - b = a + -b` holds by definition.
-/
class AddGroup (A : Type u) extends SubNegMonoid A where
  add_left_neg : ∀ a : A, -a + a = 0

class AddGroupWithOne (R : Type u) extends AddMonoidWithOne R, AddGroup R where

class AddCommGroup (G : Type u) extends AddGroup G, AddCommMonoid G

class CommGroup (G : Type u) extends Group G, CommMonoid G

class NonUnitalNonAssocRing (α : Type u) extends AddCommGroup α, NonUnitalNonAssocSemiring α

class NonUnitalRing (α : Type _) extends NonUnitalNonAssocRing α, NonUnitalSemiring α

class NonAssocRing (α : Type _) extends NonUnitalNonAssocRing α, NonAssocSemiring α,
    AddGroupWithOne α

class Ring (R : Type u) extends Semiring R, AddCommGroup R, AddGroupWithOne R

class NonUnitalCommRing (α : Type u) extends NonUnitalRing α, CommSemigroup α

instance (priority := 100) NonUnitalCommRing.toNonUnitalCommSemiring (α : Type u) [s : NonUnitalCommRing α] :
    NonUnitalCommSemiring α :=
  { s with }

class CommRing (α : Type u) extends Ring α, CommMonoid α

instance (priority := 100) CommRing.toCommSemiring (α : Type u) [s : CommRing α] : CommSemiring α :=
  { s with }

instance (priority := 100) CommRing.toNonUnitalCommRing (α : Type u) [s : CommRing α] : NonUnitalCommRing α :=
  { s with }

class DivisionSemiring (α : Type _) extends Semiring α, GroupWithZero α

class DivisionRing (K : Type u) extends Ring K, DivInvMonoid K, Nontrivial K where
  protected mul_inv_cancel : ∀ (a : K), a ≠ 0 → a * a⁻¹ = 1
  protected inv_zero : (0 : K)⁻¹ = 0
  -- ℚ stuff deleted for simplicity

class Semifield (α : Type _) extends CommSemiring α, DivisionSemiring α, CommGroupWithZero α

class Field (K : Type u) extends CommRing K, DivisionRing K

class OrderedCommMonoid (α : Type _) extends CommMonoid α, PartialOrder α where
  protected mul_le_mul_left : ∀ a b : α, a ≤ b → ∀ c : α, c * a ≤ c * b

class OrderedAddCommMonoid (α : Type _) extends AddCommMonoid α, PartialOrder α where
  protected add_le_add_left : ∀ a b : α, a ≤ b → ∀ c : α, c + a ≤ c + b

class OrderedAddCommGroup (α : Type u) extends AddCommGroup α, PartialOrder α where
  protected add_le_add_left : ∀ a b : α, a ≤ b → ∀ c : α, c + a ≤ c + b

class OrderedCommGroup (α : Type u) extends CommGroup α, PartialOrder α where
  protected mul_le_mul_left : ∀ a b : α, a ≤ b → ∀ c : α, c * a ≤ c * b

class OrderedCancelAddCommMonoid (α : Type u) extends AddCommMonoid α, PartialOrder α where
  protected add_le_add_left : ∀ a b : α, a ≤ b → ∀ c : α, c + a ≤ c + b
  protected le_of_add_le_add_left : ∀ a b c : α, a + b ≤ a + c → b ≤ c

class OrderedCancelCommMonoid (α : Type u) extends CommMonoid α, PartialOrder α where
  protected mul_le_mul_left : ∀ a b : α, a ≤ b → ∀ c : α, c * a ≤ c * b
  protected le_of_mul_le_mul_left : ∀ a b c : α, a * b ≤ a * c → b ≤ c

class LinearOrderedAddCommMonoid (α : Type _) extends LinearOrder α, OrderedAddCommMonoid α

class LinearOrderedCommMonoid (α : Type _) extends LinearOrder α, OrderedCommMonoid α

class LinearOrderedCancelAddCommMonoid (α : Type u) extends OrderedCancelAddCommMonoid α,
    LinearOrderedAddCommMonoid α

class LinearOrderedCancelCommMonoid (α : Type u) extends OrderedCancelCommMonoid α,
    LinearOrderedCommMonoid α

class LinearOrderedAddCommGroup (α : Type u) extends OrderedAddCommGroup α, LinearOrder α

class LinearOrderedCommGroup (α : Type u) extends OrderedCommGroup α, LinearOrder α

class OrderedSemiring (α : Type u) extends Semiring α, OrderedAddCommMonoid α where
  protected zero_le_one : (0 : α) ≤ 1
  protected mul_le_mul_of_nonneg_left : ∀ a b c : α, a ≤ b → 0 ≤ c → c * a ≤ c * b
  protected mul_le_mul_of_nonneg_right : ∀ a b c : α, a ≤ b → 0 ≤ c → a * c ≤ b * c

class OrderedCommSemiring (α : Type u) extends OrderedSemiring α, CommSemiring α

class OrderedRing (α : Type u) extends Ring α, OrderedAddCommGroup α where
  protected zero_le_one : 0 ≤ (1 : α)
  protected mul_nonneg : ∀ a b : α, 0 ≤ a → 0 ≤ b → 0 ≤ a * b

class OrderedCommRing (α : Type u) extends OrderedRing α, CommRing α

class StrictOrderedSemiring (α : Type u) extends Semiring α, OrderedCancelAddCommMonoid α,
    Nontrivial α where
  protected zero_le_one : (0 : α) ≤ 1
  protected mul_lt_mul_of_pos_left : ∀ a b c : α, a < b → 0 < c → c * a < c * b
  protected mul_lt_mul_of_pos_right : ∀ a b c : α, a < b → 0 < c → a * c < b * c

class StrictOrderedCommSemiring (α : Type u) extends StrictOrderedSemiring α, CommSemiring α

class StrictOrderedRing (α : Type u) extends Ring α, OrderedAddCommGroup α, Nontrivial α where
  protected zero_le_one : 0 ≤ (1 : α)
  protected mul_pos : ∀ a b : α, 0 < a → 0 < b → 0 < a * b

class StrictOrderedCommRing (α : Type _) extends StrictOrderedRing α, CommRing α

class LinearOrderedSemiring (α : Type u) extends StrictOrderedSemiring α,
  LinearOrderedAddCommMonoid α

class LinearOrderedCommSemiring (α : Type _) extends StrictOrderedCommSemiring α,
  LinearOrderedSemiring α

class LinearOrderedRing (α : Type u) extends StrictOrderedRing α, LinearOrder α

class LinearOrderedCommRing (α : Type u) extends LinearOrderedRing α, CommMonoid α

instance (priority := 100) LinearOrderedCommSemiring.toLinearOrderedCancelAddCommMonoid
    (α : Type u) [LinearOrderedCommSemiring α] : LinearOrderedCancelAddCommMonoid α :=
  { ‹LinearOrderedCommSemiring α› with }

section StrictOrderedRing

variable (α : Type u) [StrictOrderedRing α] {a b c : α}

instance (priority := 100) StrictOrderedRing.toStrictOrderedSemiring : StrictOrderedSemiring α :=
  { ‹StrictOrderedRing α›, (Ring.toSemiring : Semiring α) with
    le_of_add_le_add_left := sorry,
    mul_lt_mul_of_pos_left := sorry,
    mul_lt_mul_of_pos_right := sorry }

@[reducible]
def StrictOrderedRing.toOrderedRing' [@DecidableRel α (· ≤ ·)] : OrderedRing α :=
  { ‹StrictOrderedRing α›, (Ring.toSemiring : Semiring α) with
    mul_nonneg := sorry }

instance (priority := 100) StrictOrderedRing.toOrderedRing : OrderedRing α :=
  { ‹StrictOrderedRing α› with
    mul_nonneg := sorry }

end StrictOrderedRing

section LinearOrderedRing

variable (α : Type u) [LinearOrderedRing α] {a b c : α}

--attribute [local instance] LinearOrderedRing.decidable_le LinearOrderedRing.decidable_lt

instance (priority := 100) LinearOrderedRing.toLinearOrderedSemiring (α : Type u) [LinearOrderedRing α] : LinearOrderedSemiring α :=
  { ‹LinearOrderedRing α›, StrictOrderedRing.toStrictOrderedSemiring α with }

instance (priority := 100) LinearOrderedRing.toLinearOrderedAddCommGroup :
    LinearOrderedAddCommGroup α :=
  { ‹LinearOrderedRing α› with }

end LinearOrderedRing

class LinearOrderedSemifield (α : Type _) extends LinearOrderedCommSemiring α, Semifield α

class LinearOrderedField (α : Type _) extends LinearOrderedCommRing α, Field α

instance (priority := 100) LinearOrderedField.toLinearOrderedSemifield (α : Type u) [LinearOrderedField α] :
     LinearOrderedSemifield α :=
   { LinearOrderedRing.toLinearOrderedSemiring α, ‹LinearOrderedField α› with }

open Function

variable {ι α β : Type _}

section LinearOrderedSemifield

variable [LinearOrderedSemifield α] {a : α}

theorem inv_pos : 0 < a⁻¹ ↔ 0 < a := sorry

end LinearOrderedSemifield

class HasSup (α : Type u) where
  sup : α → α → α

class HasInf (α : Type u) where
  inf : α → α → α

@[inherit_doc]
infixl:68 " ⊔ " => HasSup.sup

@[inherit_doc]
infixl:69 " ⊓ " => HasInf.inf

/-- Transfer a `Preorder` on `β` to a `Preorder` on `α` using a function `f : α → β`.
See note [reducible non-instances]. -/
@[reducible]
def Preorder.lift {α β} [Preorder β] (f : α → β) : Preorder α where
  le x y := f x ≤ f y
  le_refl _ := sorry
  le_trans _ _ _ := sorry
  lt x y := f x < f y
  lt_iff_le_not_le _ _ := sorry

def Function.Injective (f : α → β) : Prop := ∀ ⦃a₁ a₂⦄, f a₁ = f a₂ → a₁ = a₂

/-- Transfer a `PartialOrder` on `β` to a `PartialOrder` on `α` using an injective
function `f : α → β`. See note [reducible non-instances]. -/
@[reducible]
def PartialOrder.lift {α β} [PartialOrder β] (f : α → β) (inj : Injective f) : PartialOrder α :=
  { Preorder.lift f with le_antisymm := sorry }

@[reducible]
def LinearOrder.lift {α β} [LinearOrder β] [HasSup α] [HasInf α] (f : α → β) (inj : Injective f)
    (hsup : ∀ x y, f (x ⊔ y) = max (f x) (f y)) (hinf : ∀ x y, f (x ⊓ y) = min (f x) (f y)) :
    LinearOrder α :=
  { PartialOrder.lift f inj with
    le_total := fun x y => le_total (f x) (f y)
    decidable_le := fun x y => (inferInstance : Decidable (f x ≤ f y))
    min := (· ⊓ ·)
    max := (· ⊔ ·)
    min_def := sorry
    max_def := sorry }

namespace Subtype

instance preorder [Preorder α] (p : α → Prop) : Preorder (Subtype p) :=
  Preorder.lift (fun (a : Subtype p) => (a : α))

instance partialOrder [PartialOrder α] (p : α → Prop) : PartialOrder (Subtype p) :=
  PartialOrder.lift (fun (a : Subtype p) => (a : α)) sorry

theorem coe_injective {p : α → Prop} : Injective (fun (a : Subtype p) => (a : α)) := sorry

instance linearOrder [LinearOrder α] (p : α → Prop) : LinearOrder (Subtype p) :=
  @LinearOrder.lift (Subtype p) _ _ ⟨fun x y => ⟨max x y, sorry⟩⟩
    ⟨fun x y => ⟨min x y, sorry⟩⟩ (fun (a : Subtype p) => (a : α))
    Subtype.coe_injective (fun _ _ => rfl) fun _ _ => rfl

end Subtype

namespace Function

namespace Injective

variable {M₁ : Type _} {M₂ : Type _} [Mul M₁]

protected def semigroup [Semigroup M₂] (f : M₁ → M₂) (hf : Injective f)
    (mul : ∀ x y, f (x * y) = f x * f y) : Semigroup M₁ :=
  { ‹Mul M₁› with mul_assoc := sorry }

@[reducible]
protected def commSemigroup [CommSemigroup M₂] (f : M₁ → M₂) (hf : Injective f)
    (mul : ∀ x y, f (x * y) = f x * f y) : CommSemigroup M₁ :=
  { hf.semigroup f mul with mul_comm := sorry }

variable [One M₁]

protected def mulOneClass [MulOneClass M₂] (f : M₁ → M₂) (hf : Injective f) (one : f 1 = 1)
    (mul : ∀ x y, f (x * y) = f x * f y) : MulOneClass M₁ :=
  { ‹One M₁›, ‹Mul M₁› with
    one_mul := sorry,
    mul_one := sorry }

@[reducible]
protected def monoid [Monoid M₂] (f : M₁ → M₂) (hf : Injective f) (one : f 1 = 1)
    (mul : ∀ x y, f (x * y) = f x * f y) : Monoid M₁ :=
  { hf.mulOneClass f one mul, hf.semigroup f mul with }

protected def commMonoid [Mul M₁] [CommMonoid M₂] (f : M₁ → M₂) (hf : Injective f) (one : f 1 = 1)
    (mul : ∀ x y, f (x * y) = f x * f y) :
    CommMonoid M₁ :=
  { hf.commSemigroup f mul, hf.monoid f one mul with }

end Injective

end Function

namespace Positive

section Mul

variable {R : Type _} [StrictOrderedSemiring R]

instance [Nontrivial R] : One { x : R // 0 < x } :=
  ⟨⟨1, sorry⟩⟩

theorem val_one [Nontrivial R] : ((1 : { x : R // 0 < x }) : R) = 1 :=
  rfl

instance : Mul { x : R // 0 < x } :=
  ⟨fun x y => ⟨x * y, sorry⟩⟩

@[simp]
theorem val_mul (x y : { x : R // 0 < x }) : ↑(x * y) = (x * y : R) :=
  rfl

end Mul

instance orderedCommMonoid {R : Type _} [StrictOrderedCommSemiring R] [Nontrivial R] :
    OrderedCommMonoid { x : R // 0 < x } :=
  { Subtype.partialOrder (λ (x : R) => 0 < x),
    Subtype.coe_injective.commMonoid (Subtype.val) val_one val_mul with
    mul_le_mul_left := sorry }

instance linearOrderedCancelCommMonoid {R : Type _} [LinearOrderedCommSemiring R] :
    LinearOrderedCancelCommMonoid { x : R // 0 < x } :=
  { Subtype.linearOrder _, Positive.orderedCommMonoid with
    le_of_mul_le_mul_left := sorry }

variable {K : Type _} [LinearOrderedField K]

instance Subtype.inv : Inv { x : K // 0 < x } :=
  ⟨fun x => ⟨x⁻¹, sorry⟩⟩

-- super-slow (in actual mathlib the classes are slightly more complex (I removed
-- all the nat, int, rat cast stuff) and this instance
-- actually times out unless maxheartbeats is increased)
-- See https://github.com/leanprover-community/mathlib4/blob/489f10454a7ae53fdc6a95d2ac237cbc20e69b36/Mathlib/Algebra/Order/Positive/Field.lean#L42-L46

instance : LinearOrderedCommGroup { x : K // 0 < x } :=
  { Positive.Subtype.inv, Positive.linearOrderedCancelCommMonoid with
    mul_left_inv := sorry }

end Positive
```
